US05302593
a) Preparation of 4-(N-methylpiperazinyl)butylphthalimide
4-Bromoethylphthalimide (564 mg; 2.0 mmoles) and N-methylpiperazine (0.44 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 4-Bromoethylphthalimide | 2.0 mmoles, 564 mg | BrCCC=1C=C2C(C(=O)NC2=O)=CC1 | C10H8BrNO2
reactant | N-methylpiperazine | 4.0 mmoles, 0.44 ml | CN1CCNCC1 | C5H12N2
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-(N-methylpiperazinyl)butylphthalimide | CN1C(CNCC1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C17H23N3O2
